US07906645B2
Benzyl 4-{[(3R)-1-phenylethylpiperidin-3-yl]methyl}piperazine-1-carboxylate
Benzyl 4-[(3R)-piperidin-3-ylmethyl]piperazine-1-carboxylate dihydrochloride (1.5 g) was suspended in THF (45 ml) and stirred at room temperature. N,N-Diisopropylethylamine (3.3 ml) was added followed by phenylacetaldehyde (0.9 ml) and magnesium sulphate (300 mg). After 20 minutes sodium triacetoxyborohydride (1.6 g) was added and stirring continued overnight. Inorganic residues were removed by filtration and the filtrate was adsorbed onto silica for purification by chromatography eluting with 0-7% methanol/dichloromethane. This gave benzyl 4-{[(3R)-1-phenylethylpiperidin-3-yl]methyl}piperazine-1-carboxylate as a pale yellow gum (960 mg).

reactant | Benzyl 4-[(3R)-piperidin-3-ylmethyl]piperazine-1-carboxylate dihydrochloride | 1.5 g | Cl.Cl.N1C[C@@H](CCC1)CN1CCN(CC1)C(=O)OCC1=CC=CC=C1
reactant | N,N-Diisopropylethylamine | 3.3 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | phenylacetaldehyde | 0.9 ml | C1(=CC=CC=C1)CC=O | C8H8O
reactant | magnesium sulphate | 300 mg | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | sodium triacetoxyborohydride | 1.6 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 45 ml | C1CCOC1 | C4H8O
product | Benzyl 4-{[(3R)-1-phenylethylpiperidin-3-yl]methyl}piperazine-1-carboxylate | C1(=CC=CC=C1)C(C)N1C[C@H](CCC1)CN1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C26H35N3O2
